US04115398
The process for preparing this compound will be given below along with its physical properties. A solution of 4.6 grams of p-acetoxycinnamyl chloride in 30 milliliters of ethanol is added dropwise to a solution of 6.49 grams of isoindoline in 20 milliliters of ethanol, and the resulting mixture is stirred overnight at room temperature. The precipitated crystals are collected by filtration and recrystallized from methanol to obtain 3.16 grams (yield 50%) of N-(p-hydroxycinnamyl)-isoindoline hydrochloride as crystals having a melting point of 213°-214° C. (decomposition).

reactant | p-acetoxycinnamyl chloride | 4.6 grams | C(C)(=O)OC1=CC=C(C=CCCl)C=C1 | C11H11ClO2
reactant | isoindoline | 6.49 grams | C1NCC2=CC=CC=C12 | C8H9N
solvent | ethanol | 30 milliliters | C(C)O | C2H6O
solvent | ethanol | 20 milliliters | C(C)O | C2H6O
product | N-(p-hydroxycinnamyl)-isoindoline hydrochloride | 3.16 grams, yield 50% | Cl.OC1=CC=C(C=CCN2CC3=CC=CC=C3C2)C=C1 | InChI=1S/C17H17NO.ClH/c19-17-9-7-14(8-10-17)4-3-11-18-12-15-5-1-2-6-16(15)13-18;/h1-10,19H,11-13H2;1H
